US04668823
A Grignard mixture of 55 mmoles of cyclohexylmagnesium chloride (prepared from 1.5 g of magnesium turnings and 6.5 g of cyclohexylchloride in 20 ml of anhydrous ether) was added dropwise to a stirred solution of 8.9 g (50 mmoles) of phenyldichlorophosphine in 50 ml of anhydrous ether maintained under an inert atmosphere at -25° C. After the addition was complete, the resulting mixture was allowed to gradually warm to ambient temperature and then was refluxed for 15 minutes. The stirred mixture was cooled and a solution of 75 mmoles of isopropylmagnesium bromide (prepared from 2.1 g of magnesium turnings and 9.5 g of isopropyl bromide in 29 ml of anhydrous ether) was added dropwise at temperatures between 0° C. and +30° C. After refluxing for 4 hours, the reaction mixture was cooled to 0° C. and treated dropwise with 25 ml of water, thereby giving two phases. The ether phase was separated, dried over magnesium sulfate, concentrated, and distilled to give cyclohexylisopropylphenylphosphine: 31P-NMR δ=6.08 ppm; boiling point ("BP")=104°-105° C. at 0.05 torr, Chemical Ionization Mass Spec [M+H+ =235, yield=about 67%.

reactant | cyclohexylmagnesium chloride | 55 mmoles, 20 ml, 1.5 g | C1(CCCCC1)[Mg]Cl
reactant | phenyldichlorophosphine | 50 mmoles, 8.9 g | C1(=CC=CC=C1)P(Cl)Cl | C6H5Cl2P
reactant | isopropylmagnesium bromide | 75 mmoles, 29 ml, 2.1 g | C(C)(C)[Mg]Br
reactant | water | 25 ml | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
product | cyclohexylisopropylphenylphosphine | yield=about 67% | C1(CCCCC1)P(C1=CC=CC=C1)C(C)C | C15H23P
